US05114939
N,N'-Bis[2-(4-chlorophenyl)ethyl]-2,7-quinolinediamine
A mixture of 2.0 g of 4-chloro-7-fluoroquinoline and 3.5 g of 2-(4-chlorophenyl)ethyl amine was heated neat until fuming began. The mixture was then cooled. The product was extracted into a CHClz/ammonium hydroxide solution, which was then washed with water. Solvent was removed by reducing pressure. The residue was placed on a silica gel column with acetone, then flushed with ethanol. Solvent was removed by reducing pressure, giving the title product as a yellow-brown foam. Yield 1.1 g. M.P. 55°-60° C.

reactant | 4-chloro-7-fluoroquinoline | 2.0 g | ClC1=CC=NC2=CC(=CC=C12)F | C9H5ClFN
reactant | 2-(4-chlorophenyl)ethyl amine | 3.5 g | ClC1=CC=C(C=C1)CCN | C8H10ClN
product | N,N'-Bis[2-(4-chlorophenyl)ethyl]-2,7-quinolinediamine | ClC1=CC=C(C=C1)CCNC1=NC2=CC(=CC=C2C=C1)NCCC1=CC=C(C=C1)Cl | C25H23Cl2N3
